US07465815B2
5-Methyl-2-(4,6,7-trimethyl-1-benzofuran-3-yl)pyridine
Using 1-(5-methylpyridin-2-yl)-2-(2,3,5-trimethylphenoxy)ethanone obtained in Reference Example 168, the title compound was synthesized in the same manner as in Reference Example 191. Yield 87%. Melting point: 134-135° C. (ethyl acetate-hexane).

reactant | 1-(5-methylpyridin-2-yl)-2-(2,3,5-trimethylphenoxy)ethanone | CC=1C=CC(=NC1)C(COC1=C(C(=CC(=C1)C)C)C)=O | C17H19NO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 5-Methyl-2-(4,6,7-trimethyl-1-benzofuran-3-yl)pyridine | Yield 87% | CC=1C=CC(=NC1)C1=COC2=C1C(=CC(=C2C)C)C | C17H17NO
